US07662811B2
Step 4: Preparation of 2-[3-Oxo-1-(toluene-4-sulfonyl)-1,2,3,4-tetrahydro-pyrazin-2-yl]-N-[4-(3-piperidin-1-yl-propyl)-phenyl]-acetamide:
To a 20 mL flask equipped with stirring was added N-[4-(3-oxo-propyl)-phenyl]-2-[3-oxo-1-(toluene-4-sulfonyl)-1,2,3,4-tetrahydro-pyrazin-2-yl]-acetamide (45 mg, 0.102 mmol), ClCH2CH2Cl (2 mL), piperidine (Aldrich, 0.02 mL, 0.204 mmol) and one drop of HOAc. NaBH(OAc)3 was added after 5 min. The reaction mixture was stirred at room temperature overnight, then diluted with CH2Cl2 (40 mL). The organic phase was washed with saturated NaHCO3 and brine, dried over Na2SO4, filtered and concentrated in vacuo. Purification by preparative TLC (10% MeOH—CH2Cl2) afforded the title compound. MS (ESI): 511 (M+H)+.

reactant | N-[4-(3-oxo-propyl)-phenyl]-2-[3-oxo-1-(toluene-4-sulfonyl)-1,2,3,4-tetrahydro-pyrazin-2-yl]-acetamide | 0.102 mmol, 45 mg | O=CCCC1=CC=C(C=C1)NC(CC1N(C=CNC1=O)S(=O)(=O)C1=CC=C(C=C1)C)=O | C22H23N3O5S
reactant | ClCH2CH2Cl | 2 mL | C(CCl)Cl | C2H4Cl2
reactant | piperidine | 0.204 mmol, 0.02 mL | N1CCCCC1 | C5H11N
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
catalyst | HOAc | one drop | CC(=O)O | C2H4O2
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | 2-[3-Oxo-1-(toluene-4-sulfonyl)-1,2,3,4-tetrahydro-pyrazin-2-yl]-N-[4-(3-piperidin-1-yl-propyl)-phenyl]-acetamide | O=C1C(N(C=CN1)S(=O)(=O)C1=CC=C(C=C1)C)CC(=O)NC1=CC=C(C=C1)CCCN1CCCCC1 | C27H34N4O4S
